US09328138B2
Step 1: N,N′-bis(3-chlorophenyl)propanediamide
3-chloroaniline (5.01 g) and diethyl malonate (2.51 ml) were combined in a flask and heated to 220° C. utilizing a short path condenser with nitrogen bleed over the reaction to remove reaction ethanol. The reaction was stirred for 18 hours and then cooled to room temperature. The solid that had formed in the flask was broken up in diethyl ether 30 mL to give free flowing orange solid upon filtration and washing with ether (3.75 g). LRMS (ES+) m/z (M+H)+ 322.9.

reactant | 3-chloroaniline | 5.01 g | ClC=1C=C(N)C=CC1 | C6H6ClN
reactant | diethyl malonate | 2.51 ml | C(CC(=O)OCC)(=O)OCC | C7H12O4
solvent | diethyl ether | 30 mL | C(C)OCC | C4H10O
product | N,N′-bis(3-chlorophenyl)propanediamide | ClC=1C=C(C=CC1)NC(CC(=O)NC1=CC(=CC=C1)Cl)=O | C15H12Cl2N2O2
